US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-4-carboxamide
To a suspension of 1,3-dimethyl-1H-pyrazole-4-carboxylic acid (140 mg, 1.0 mmol) in dichloromethane (10 mL) were added N,N-dimethylformamide (2 drops) then oxalyl chloride (0.171 mL, 2.0 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure. The residue was diluted with N-methylpyrrolidone (5 mL), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (155 mg, 0.50 mmol) was added thereto, and the mixture was stirred at room temperature for 6 hr. To the reaction mixture was added 0.5N aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→70/30). The objective fraction was concentrated under reduced pressure, and the residue was washed with diisopropyl ether to give the title compound (126 mg, yield 58%) as a white solid.

reactant | 1,3-dimethyl-1H-pyrazole-4-carboxylic acid | 1.0 mmol, 140 mg | CN1N=C(C(=C1)C(=O)O)C | C6H8N2O2
reactant | oxalyl chloride | 2.0 mmol, 0.171 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 155 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-4-carboxamide | 126 mg, yield 58% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C=2C(=NN(C2)C)C)C1 | C22H21N7O3
